US07671056B2
1) 5-Chloro-8-(trifluoromethylsulfonyloxy)quinoline
To a suspension of 5-chloro, 8-hydroxy-quinoline (commercially available, 8.95 g) in 100 ml CH2Cl2, TEA is added (20 ml). The mixture becomes homogeneous and is then cooled to −15° C. The suspension dissolved, then cooled to −15° C. A solution of 21.1 g of triflic anhydride in 50 ml of CH2Cl2, is added drop by drop with cooling. After complete addition, the reaction was stirred at −15° C. for hour; The reaction was diluted with CH2Cl2, washed with a solution of NaHCO3, then with water dried and the solvent was removed to give 15.0 g of product. MP: 80-83° C. MS (ES) m/z (relative intensity): 312 (M++−H, 100

reactant | 8-hydroxy-quinoline | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | triflic anhydride | 21.1 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
reactant | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 5-Chloro-8-(trifluoromethylsulfonyloxy)quinoline | 15.0 g | ClC1=C2C=CC=NC2=C(C=C1)OS(=O)(=O)C(F)(F)F | C10H5ClF3NO3S
